US07271130B2
4-Methyl-4-(2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopent-1-yl)pent-2-yn-1-ol (2.55 g) in dry tetrahydrofuran (30 ml) was cooled to −10° C. under an atmosphere of nitrogen with stirring and potassium bis(trimethylsilylamide (2.09 g) in dry tetrahydrofaran (25 ml) was added over 5 minutes then the mixture was stirred at −(10 to 5)° C. for 0.75 hours. Methyl iodide (1.49 g) in tetrahydrofuran (10 ml) was added over 5 minutes and the mixture was allowed to warm to ambient temperature over 2 hour then stored for 18 hours. The mixture was diluted with water and extracted with ethyl acetate (three times). The extracts were combined, washed with water, dried over magnesium sulphate and evaporated under reduced pressure to give 1-(1-methoxy-4-methylpent-2-yn-4-yl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane as a yellow liquid. This liquid was stirred with dilute aqueous hydrochloric acid (30 ml) for 0.25 hours, washed with diethyl ether (twice) and the aqueous acidic phase separated then evaporated under reduced pressure. The residue was evaporated under reduced pressure with toluene (twice) to remove any water, dissolved in dichloromethane and dried over magnesium sulphate then evaporated under reduced pressure to give 4-amino-1-methoxy-4-methylpent-2-yne hydrochloride, 0.66 g, as a pale yellow solid.

reactant | 4-Methyl-4-(2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopent-1-yl)pent-2-yn-1-ol | 2.55 g | CC(C#CCO)(C)N1[Si](CC[Si]1(C)C)(C)C | C12H25NOSi2
reactant | potassium | [K] | K
reactant | trimethylsilylamide | 2.09 g | C[Si](C)(C)[NH-]
reactant | Methyl iodide | 1.49 g | CI | CH3I
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(1-methoxy-4-methylpent-2-yn-4-yl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane | COCC#CC(C)(C)N1[Si](CC[Si]1(C)C)(C)C | C13H27NOSi2
